US04826854
A mixture of 4.0 g of ethyl 4-hydroxy-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate and 25 ml of phosphorus oxychloride is refluxed under argon for 3 hours and then evaporated to dryness under reduced pressure. A solution of the residue in methylene chloride is treated with ice and water and basified with 10N sodium hydroxide. The layers are separated, the aqueous phase is re-extracted with methylene chloride; the combined organic extract is dried with magnesium sulfate, filtered, and the solvent is removed at reduced pressure to yield ethyl 4-chloro-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate as an oil.

reactant | ethyl 4-hydroxy-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate | 4.0 g | OC1=C2C(=NC=C1C(=O)OCC)CCCCCCCC2 | C16H23NO3
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-5,6,7,8,9,10,11,12-octahydrocyclodeca[b]pyridine-3-carboxylate | ClC1=C2C(=NC=C1C(=O)OCC)CCCCCCCC2 | C16H22ClNO2
